US05981572
7-Fluoro-4-methyl-benzofuran
A solution of 2-(2,2-dimethoxy-ethoxy)-1-fluoro-4-methyl-benzene (48 g) in toluene (50 ml) was added dropwise to a refluxing solution of polyphosphoric acid (100 g) in toluene (350 ml) under nitrogen. The mixture was heated under reflux for 3 h, cooled to room temperature and sodium hydroxide (2N; 800 ml) added. The mixture was extracted with ether (3×300 ml) and the combined organic extracts washed with brine (2×300 ml) and dried (MgSO4). The solvent was evaporated and the residue purified by column chromatography. Eluting with hexane gave the title compound as a pale yellow oil (14.2 g)

reactant | 2-(2,2-dimethoxy-ethoxy)-1-fluoro-4-methyl-benzene | 48 g | COC(COC1=C(C=CC(=C1)C)F)OC | C11H15FO3
reactant | sodium hydroxide | 2N, 800 ml | [OH-].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | 7-Fluoro-4-methyl-benzofuran | 14.2 g | FC1=CC=C(C=2C=COC21)C | C9H7FO
